US06727264B1
3-CHLOROPROPYL 4-FLUOROPHENYL SULFIDE:
Prepared by Procedure R and Scheme Z using 4-fluorobenzenethiol and 1-bromo-3-chloropropane.

reactant | 4-fluorobenzenethiol | FC1=CC=C(C=C1)S | C6H5FS
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
product | 3-CHLOROPROPYL 4-FLUOROPHENYL SULFIDE | FC1=CC=C(C=C1)SCCCCl | C9H10ClFS
